US07951838B2
A solution of (S)-3-(tert-butoxycarbonyl)-4-(2,2-dimethylbenzo[d][1,3]dioxol-5-yl)-2-oxobutyl acetate (3270 mg, 8311 μmol) in 100 mL of ethanol was cooled to −78° C. and added to a solution of lithium aluminum tri-tert-butoxyhydride (16623 μl, 16623 μmol) in 45 mL of ethanol at −78 C dropwise via a cannula over 10 minutes. After stirring at −78° C. for 2 hours the reaction was quenched with 25 mL of 1 N HCl and diluted with ethyl acetate (500 mL). The mixture was poured into 200 mL of water, the layers were separated and the aqueous layer was extracted with ethyl acetate (3×100 mL). The combined organics were washed with water, brine, and dried over sodium sulfate and concentrated to provide (2S,3S)-3-(tert-butoxycarbonyl)-4-(2,2-dimethylbenzo[d][1,3]dioxol-5-yl)-2-hydroxybutyl acetate (3220 mg, 98% yield) as a white solid.

reactant | (S)-3-(tert-butoxycarbonyl)-4-(2,2-dimethylbenzo[d][1,3]dioxol-5-yl)-2-oxobutyl acetate | 8311 μmol, 3270 mg | C(C)(=O)OCC([C@H](CC1=CC2=C(OC(O2)(C)C)C=C1)C(=O)OC(C)(C)C)=O | C20H26O7
reactant | lithium aluminum tri-tert-butoxyhydride | 16623 μmol, 16623 μl | [Li].CC(C)(C)[O-].CC(C)(C)[O-].CC(C)(C)[O-].[Al+3]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 45 mL | C(C)O | C2H6O
product | (2S,3S)-3-(tert-butoxycarbonyl)-4-(2,2-dimethylbenzo[d][1,3]dioxol-5-yl)-2-hydroxybutyl acetate | 3220 mg, 98% yield | C(C)(=O)OC[C@H]([C@H](CC1=CC2=C(OC(O2)(C)C)C=C1)C(=O)OC(C)(C)C)O | C20H28O7
